* /Users/isabellerussell/Documents/Software/Solar car/Solar_car/Solar_Car_Simulation.asc
* Generated by LTspice 26.0.2 for MacOS.
R1 0 N005 1.7k
R2 N005 N011 1k
R5 N009 0 10k
C1 N010 0 2.2n
V1 N001 0 15
R3 N001 N006 100
R6 N003 N006 10
M1 N007 N003 N001 N001 BSS84
M2 N007 N003 0 0 BSP89
R7 N008 N007 10
M3 N004 N008 0 0 IPP034N03L
R8 N008 0 10k
D1 N004 N001 MBRS340
C2 N002 N004 167µ
L1 N001 N002 40µ Rser=1m
R§Motor_Load N002 N004 3
X§U1 0 N005 0 0 0 0 0 N001 N006 0 N009 N010 N011 0 TL494_CEH ;§pnba DTC)FB)1IN+)1IN-)2IN+)2IN-)OC)VCC)C1)E1)RT)CT)REF)GND
.model D D
.lib C:\users\crossover\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\crossover\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 0 5ms 1.8ms startup
* Library below included based on ModelFile attribute of instance X§U1 (Y:\Documents\Software\Solar car\Solar_car\TL494_CEH.asy)
.lib TL494_CEH.sub
.backanno
.end
